US07276606B2
[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-(4-methoxy-phenyl)-methanone was prepared from phenanthridine, 4-methoxybenzoyl chloride, and indole according to GP 2. Yield, 67%. 1H-NMR (DMSO-d6): δ=3.72 (s, 3H), 6.20 (dd, J=2.5 Hz, J=0.8 Hz, 1H), 6.39 (d, br., J=8 Hz, 1H), 6.81 (d, J=9.0 Hz, 2H), 6.81-6.88 (m, 1H), 6.98-7.08 (m, 2H), 7.12 (ddd, J=J=7.5 Hz, J=1.2 Hz, 1H), 7.15-7.26 (m, 2H), 7.18 (d, J=9.0 Hz, 2H), 7.42 (ddd, J=J=7.4 Hz, J=1.2 Hz, 1H), 7.53 (“t”, J≈7 Hz, 2H), 7.90 (“d”, J≈7 Hz, 1H), 7.95 (dd, J=7.9 Hz, J=1.3 Hz, 1H), 8.09 (“d”, J≈8 Hz, 1H), 10.68 (s, 1H); (+)-ESI-MS: m/z=431 [M+H]+, 314 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | [6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-(4-methoxy-phenyl)-methanone | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)OC | C29H22N2O2
